US08426422B2
ethyl 2-(1H-indol-5-yloxy)-4-fluorobenzoate
Ethyl 2,4-difluorobenzoate (1.14 g), K3PO4 (1.30 g) and 5-hydroxyindole (0.90 g) were stirred at 110° C. in diglyme (12 mL) for 24 hours. The reaction was cooled and poured into ether. The solution was washed three times with 1M aqueous NaOH solution, and brine, and dried over Na2SO4. The solution was then filtered, concentrated, and the crude product was chromatographed on silica gel with 20% ethyl acetate/hexanes.

reactant | Ethyl 2,4-difluorobenzoate | 1.14 g | FC1=C(C(=O)OCC)C=CC(=C1)F | C9H8F2O2
reactant | K3PO4 | 1.30 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 5-hydroxyindole | 0.90 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | ether | CCOCC | C4H10O
solvent | diglyme | 12 mL | COCCOCCOC | C6H14O3
product | ethyl 2-(1H-indol-5-yloxy)-4-fluorobenzoate | N1C=CC2=CC(=CC=C12)OC1=C(C(=O)OCC)C=CC(=C1)F | C17H14FNO3
